US06635434B1
N-(5-carboxymethyl-pentyl)-2-anthraquinonecarboxamide:
Anthraquinone-2-carboxylic acid (2.52 g, 10 mmol) was suspended in tetrahydrofuran (THF) (100 mL). The mixture was cooled on an ice bath and dicyclohexylcarbodiimide (DCC) (2.26 g, 11 mmol, NovaBiochem) was added, followed by 3-hydroxy-1,2,3-benzotriazine-4-one (Dhbt-OH) (1.63 g, 10 mmol). The ice bath was removed and the mixture stirred overnight at room temperature. The solvent was removed in vacuum and the residue was suspended in DMF (100 ml). 6-aminohexanoic acid methylester (1.99 g, 11 mmol) was added followed by triethylamine (7 mL, 50 mmol). The mixture was stirred overnight at room temperature. DCU was removed by filtration, and the product was precipitated by addition of ice/water (200 mL). The product was collected by filtration and dried in vacuum in an exicator over sicapent. The crude was recrystallized from ethyl acetate yielding the product as yellow solid (3.1 g, 73%). The product was shown to be pure by TLC. R1(ethyl acetate)=0.68. Melting point 144-145° C. Mass spectroscopy (FAB+): 380.1 (MH+). 1H-NMR (DMSO-d6) δ: 9.00 (t, 1H), 8.75 (s, 1H), 8.40 (dd, 1H), 8.30 (m, 3H), 8.05 (m, 2H), 3.70 (s, 3H), 3.40 (q, 2H) 2.40 (t, 2H), 1.70 (qn, 4H), 1.40 (qn, 2H).

reactant | Anthraquinone-2-carboxylic acid | 10 mmol, 2.52 g | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H8O4
reactant | dicyclohexylcarbodiimide | 11 mmol, 2.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-hydroxy-1,2,3-benzotriazine-4-one | 10 mmol, 1.63 g | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | 6-aminohexanoic acid methylester | 11 mmol, 1.99 g | COC(CCCCCN)=O | C7H15NO2
reactant | triethylamine | 50 mmol, 7 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(5-carboxymethyl-pentyl)-2-anthraquinonecarboxamide | C(=O)(O)CCCCCCNC(=O)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C22H21NO5
